US06288105B1
Preparation of 2-[4-(Cyanomethoxy)phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene
A suspension of 2-(4-hydroxyphenyl)-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene (102 mg) and cesium carbonate (386 mg) in DMF (3.0 mL) was treated with bromoacetonitrile (20 uL) while stirring at ambient temperature.

reactant | 2-(4-hydroxyphenyl)-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene | 102 mg | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C27H27NO2S
reactant | cesium carbonate | 386 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromoacetonitrile | 20 uL | BrCC#N | C2H2BrN
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 2-[4-(Cyanomethoxy)phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene | C(#N)COC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C29H28N2O2S
